US06586431B1
To a solution of LAH in THF (1M, 13.9 mL) at 0° C. was added a solution of 6-(4-bromo-phenyl)-6-(3-methoxy-phenyl)-morpholin-3-one (3.34 g, 9.23 mmol) in THF (15 mL). The reaction mixture was stirred at 0° C. for 1 h and at room temperature for 16 h. To the mixture was added H20 (6.2 mL) followed by addition of 15% aqueous NaOH (6.2 mL) and H20 (7 mL). The mixture was filtered through celite and the celite was washed with EtOAc (50 mL). The filtrate was dried over MgSO4 and concentrated to afford 2.82 g of 2-(4-bromophenyl)-2-(3-methoxy-phenyl)-morpholine. 1HNMR (400 MHz, CDCl3) δ 7.43-7.36 (comp, 2H), 7.33-7.20 (comp, 3H), 6.98-6.82 (comp, 2H), 6.79-6.75 (m, 1 H), 3.76 (s, 3H), 3.68-3.69 (comp, 2H), 3.45-3.29 (comp, 2H), 2.93-2.88 (comp, 2H); MS (M+1) 348.01, 350.0.

reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 6-(4-bromo-phenyl)-6-(3-methoxy-phenyl)-morpholin-3-one | 9.23 mmol, 3.34 g | BrC1=CC=C(C=C1)C1(OCC(NC1)=O)C1=CC(=CC=C1)OC | C17H16BrNO3
reactant | NaOH | 6.2 mL | [OH-].[Na+]
solvent | THF | 1M, 13.9 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-(4-bromophenyl)-2-(3-methoxy-phenyl)-morpholine | 2.82 g | BrC1=CC=C(C=C1)C1(CNCCO1)C1=CC(=CC=C1)OC | C17H18BrNO2
